** sch_path: /foss/designs/SNN-MWIP/tb_net_mwip.sch
**.subckt tb_net_mwip
x1 VDD GND e_x tau_nom x_nom dx_nom th_nom dth_nom e_th 4x1_net
XM1 tau x th dx dth mwip_v0
V1 VDD GND 1.8
alimit1 %vd( dth GND ) %vd( net1 GND ) alimit1
.model alimit1 limit ( gain='0.9/5' out_lower_limit=0 out_upper_limit=0.9 )
alimit2 %vd( th GND ) %vd( net2 GND ) alimit2
.model alimit2 limit ( gain='0.9/0.4148' out_lower_limit=0 out_upper_limit=0.9 )
alimit3 %vd( dx GND ) %vd( net3 GND ) alimit3
.model alimit3 limit ( gain='0.9/5' out_lower_limit=0 out_upper_limit=0.9 )
alimit4 %vd( x GND ) %vd( net4 GND ) alimit4
.model alimit4 limit ( gain='0.9/4.8' out_lower_limit=0 out_upper_limit=0.9 )
V2 dth_nom net1 0.9
V3 th_nom net2 0.9
V4 dx_nom net3 0.9
V5 x_nom net4 0.9
alimit5 %vd( x x_ref ) %vd( net5 GND ) alimit5
.model alimit5 limit ( gain='1.8/5' out_lower_limit=-0.9 out_upper_limit=0.9 )
alimit6 %vd( th th_ref ) %vd( net6 GND ) alimit6
.model alimit6 limit ( gain='1.8/5' out_lower_limit=-0.9 out_upper_limit=0.9 )
V6 x_ref GND 2.5
V7 e_x net5 0.9
V8 e_th net6 0.9
V9 th_ref GND 0
alimit7 %vd( tau_nom GND ) %vd( tau GND ) alimit7
.model alimit7 limit ( gain=100 out_lower_limit=-1 out_upper_limit=1 )
**** begin user architecture code

*MADE BY JORGE ALEJANDRO JUAREZ LORA IPN

.subckt rram_v1 TE BE
    N1 TE BE rram_v1_model gap_initial=unif(0.9,0.79)
    *N1 TE BE rram_v1_model
.ends rram_v1

.subckt mwip_v0 tau x th dx dth
    N1 Tau x th dx dth mwip_v0_model
.ends mwip_v0

.model mwip_v0_model mwip_dynamics
.model rram_v1_model rram_v1_va

.control
    pre_osdi /foss/designs/SNN-MWIP/Memristor/rram_v1.osdi
    pre_osdi /foss/designs/SNN-MWIP/MWIP/mwip.osdi
.endc

.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt


.options method gear
.options KLU
.options noinit
.options set num_threads=8
.options set ng_nomodcheck
.options set skywaterpdk
.options set wr_vecnames
.options set wr_singlescale
.options numdgt = 2
.save tau x dx th dth tau x_nom dx_nom th_nom dth_nom tau_nom e_x e_th


.tran 10n 0.1 uic
.control
	run
	write /foss/designs/SNN-MWIP/data2.raw
.endc



**** end user architecture code
**.ends

* expanding   symbol:  4x1_net.sym # of pins=9
** sym_path: /foss/designs/SNN-MWIP/4x1_net.sym
** sch_path: /foss/designs/SNN-MWIP/4x1_net.sch
.subckt 4x1_net avdd avss R1 y1 x1 x2 x3 x4 R2
*.ipin x1
*.iopin avdd
*.iopin avss
*.iopin y1
*.iopin R1
*.ipin x2
*.ipin x3
*.ipin x4
*.iopin R2
x1 avdd avss x1 net4 j1 j2 net3 layer_input
x7 net9 GND k4 j1 avdd net3 net15 j3 j7 net2 j5 net5 net7 j2 j4 j8 net1 net4 j6 net6 net8 k3 k2 k1 net16 net13 net14 net10 net11
+ net12 stdp_8x4
x8 avdd net9 GND k4 y1 R1 R2 net15 k3 k2 k1 net16 net13 net14 net10 net11 net12 layer_output_rew
x2 avdd avss x2 j6 j3 j4 j5 layer_input
x3 avdd avss x3 net6 j7 j8 net5 layer_input
x4 avdd avss x4 net8 net2 net1 net7 layer_input
**** begin user architecture code


.save v(j1) v(j2) v(j3) v(j4) v(j5) v(j6) v(j7) v(j8)
.save v(k1) v(k2) v(k3) v(k4)


**** end user architecture code
.ends


* expanding   symbol:  layer/layer_input.sym # of pins=7
** sym_path: /foss/designs/SNN-MWIP/layer/layer_input.sym
** sch_path: /foss/designs/SNN-MWIP/layer/layer_input.sch
.subckt layer_input vdd vss vin nvout2 vout1 vout2 nvout1
*.iopin vdd
*.iopin vss
*.ipin vin
*.iopin vout1
*.iopin vout2
*.iopin nvout1
*.iopin nvout2
Xx2 net2 vdd vout2 vileak vss nvout2 ul_tun_final W_LEAK=0.8 CM=0.8p
XM2 vileak vileak vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
I1 vdd vileak 100nA
Xx1 net1 vdd vout1 vileak vss nvout1 ul_tun_final W_LEAK=0.9 CM=0.8p
x5 vdd net1 net2 vin net3 vss otavccs4
XM1 net3 vin vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=1 m=1
XM3 net3 net3 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=1 m=1
.ends


* expanding   symbol:  Synapse/stdp_8x4.sym # of pins=30
** sym_path: /foss/designs/SNN-MWIP/Synapse/stdp_8x4.sym
** sch_path: /foss/designs/SNN-MWIP/Synapse/stdp_8x4.sch
.subckt stdp_8x4 i_post0 vssa vout_post3 vout_pre0 vdda nvout_pre0 nvout_post1 vout_pre2 vout_pre4 vout_pre6 nvout_pre2 nvout_pre4
+ nvout_pre6 vout_pre1 vout_pre3 vout_pre5 vout_pre7 nvout_pre1 nvout_pre3 nvout_pre5 nvout_pre7 vout_post2 vout_post1 vout_post0 nvout_post0
+ nvout_post3 nvout_post2 i_post1 i_post2 i_post3
*.iopin vdda
*.iopin vssa
*.iopin vout_post0
*.iopin i_post0
*.iopin nvout_post0
*.iopin nvout_pre4
*.iopin nvout_pre2
*.iopin nvout_pre0
*.iopin nvout_pre6
*.iopin nvout_post1
*.iopin nvout_post2
*.iopin nvout_post3
*.iopin vout_post1
*.iopin vout_post2
*.iopin vout_post3
*.iopin i_post1
*.iopin i_post2
*.iopin i_post3
*.iopin nvout_pre5
*.iopin nvout_pre3
*.iopin nvout_pre1
*.iopin nvout_pre7
*.iopin vout_pre4
*.iopin vout_pre2
*.iopin vout_pre0
*.iopin vout_pre6
*.iopin vout_pre5
*.iopin vout_pre3
*.iopin vout_pre1
*.iopin vout_pre7
xstdp2 vdda vssa vout_pre0 vout_post1 i_post1 nvout_pre0 nvout_post1 stdp_min
xstdp3 vdda vssa vout_pre0 vout_post2 i_post2 nvout_pre0 nvout_post2 stdp_min
xstdp4 vdda vssa vout_pre0 vout_post3 i_post3 nvout_pre0 nvout_post3 stdp_min
xstdp5 vdda vssa vout_pre1 vout_post0 i_post0 nvout_pre1 nvout_post0 stdp_min
xstdp6 vdda vssa vout_pre1 vout_post1 i_post1 nvout_pre1 nvout_post1 stdp_min
xstdp7 vdda vssa vout_pre1 vout_post2 i_post2 nvout_pre1 nvout_post2 stdp_min
xstdp8 vdda vssa vout_pre1 vout_post3 i_post3 nvout_pre1 nvout_post3 stdp_min
xstdp9 vdda vssa vout_pre2 vout_post0 i_post0 nvout_pre2 nvout_post0 stdp_min
xstdp10 vdda vssa vout_pre2 vout_post1 i_post1 nvout_pre2 nvout_post1 stdp_min
xstdp11 vdda vssa vout_pre2 vout_post2 i_post2 nvout_pre2 nvout_post2 stdp_min
xstdp12 vdda vssa vout_pre2 vout_post3 i_post3 nvout_pre2 nvout_post3 stdp_min
xstdp13 vdda vssa vout_pre3 vout_post0 i_post0 nvout_pre3 nvout_post0 stdp_min
xstdp14 vdda vssa vout_pre3 vout_post1 i_post1 nvout_pre3 nvout_post1 stdp_min
xstdp15 vdda vssa vout_pre3 vout_post2 i_post2 nvout_pre3 nvout_post2 stdp_min
xstdp16 vdda vssa vout_pre3 vout_post3 i_post3 nvout_pre3 nvout_post3 stdp_min
xstdp17 vdda vssa vout_pre4 vout_post0 i_post0 nvout_pre4 nvout_post0 stdp_min
xstdp18 vdda vssa vout_pre4 vout_post1 i_post1 nvout_pre4 nvout_post1 stdp_min
xstdp19 vdda vssa vout_pre4 vout_post2 i_post2 nvout_pre4 nvout_post2 stdp_min
xstdp20 vdda vssa vout_pre4 vout_post3 i_post3 nvout_pre4 nvout_post3 stdp_min
xstdp21 vdda vssa vout_pre5 vout_post0 i_post0 nvout_pre5 nvout_post0 stdp_min
xstdp22 vdda vssa vout_pre5 vout_post1 i_post1 nvout_pre5 nvout_post1 stdp_min
xstdp23 vdda vssa vout_pre5 vout_post2 i_post2 nvout_pre5 nvout_post2 stdp_min
xstdp24 vdda vssa vout_pre5 vout_post3 i_post3 nvout_pre5 nvout_post3 stdp_min
xstdp25 vdda vssa vout_pre6 vout_post0 i_post0 nvout_pre6 nvout_post0 stdp_min
xstdp26 vdda vssa vout_pre6 vout_post1 i_post1 nvout_pre6 nvout_post1 stdp_min
xstdp27 vdda vssa vout_pre6 vout_post2 i_post2 nvout_pre6 nvout_post2 stdp_min
xstdp28 vdda vssa vout_pre6 vout_post3 i_post3 nvout_pre6 nvout_post3 stdp_min
xstdp29 vdda vssa nvout_pre7 vout_post0 i_post0 vout_pre7 nvout_post0 stdp_min
xstdp30 vdda vssa nvout_pre7 vout_post1 i_post1 vout_pre7 nvout_post1 stdp_min
xstdp31 vdda vssa nvout_pre7 vout_post2 i_post2 vout_pre7 nvout_post2 stdp_min
xstdp32 vdda vssa nvout_pre7 vout_post3 i_post3 vout_pre7 nvout_post3 stdp_min
xstdp1 vdda vssa vout_pre0 vout_post0 i_post0 nvout_pre0 nvout_post0 stdp_min
.ends


* expanding   symbol:  /foss/designs/SNN-MWIP/layer/layer_output_rew.sym # of pins=17
** sym_path: /foss/designs/SNN-MWIP/layer/layer_output_rew.sym
** sch_path: /foss/designs/SNN-MWIP/layer/layer_output_rew.sch
.subckt layer_output_rew vdd Iext0 vss vout3 hx Vrew1 Vrew2 nvout1 vout2 vout1 vout0 nvout0 nvout3 nvout2 Iext1 Iext2 Iext3
*.iopin vdd
*.iopin vss
*.ipin Iext0
*.iopin hx
*.iopin vout0
*.iopin Vrew1
*.iopin Vrew2
*.iopin vout1
*.iopin vout2
*.iopin vout3
*.iopin nvout0
*.iopin nvout1
*.iopin nvout2
*.iopin nvout3
*.ipin Iext1
*.ipin Iext2
*.ipin Iext3
Xx2 Iext0 vdd vout0 Vrew1 vss nvout0 ul_tun_final W_LEAK=1 CM=0.8p
Xx1 Iext1 vdd vout1 Vrew1 vss nvout1 ul_tun_final W_LEAK=1.1 CM=0.8p
Xx3 Iext2 vdd vout2 Vrew2 vss nvout2 ul_tun_final W_LEAK=1.05 CM=0.8p
Xx4 Iext3 vdd vout3 Vrew2 vss nvout3 ul_tun_final W_LEAK=1.15 CM=0.8p
XM7 net1 vout0 GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 net1 vout1 GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM9 net2 vout2 GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM10 net2 vout3 GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
x5 VDD net3 net1 GND integrator
**** begin user architecture code


.save v(vout0) v(vout1) v(vout2) v(vout3)


**** end user architecture code
x6 VDD net4 net2 GND integrator
x7 VDD hx net4 net3 GND opamp_mini
.ends


* expanding   symbol:  Neuron/ul_tun_final.sym # of pins=6
** sym_path: /foss/designs/SNN-MWIP/Neuron/ul_tun_final.sym
** sch_path: /foss/designs/SNN-MWIP/Neuron/ul_tun_final.sch
.subckt ul_tun_final Iext vdd vout Vleak vss nvout  W_LEAK=1 CM=1p
*.iopin Iext
*.iopin vout
*.iopin vss
*.iopin Vleak
*.iopin vdd
*.iopin nvout
XM1 vout vout vm vdd sky130_fd_pr__pfet_01v8 L=10 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
+ m=1
XM2 vout net1 vm vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58 nrd=0.193333333333333
+ nrs=0.193333333333333 sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 net1 vm vdd sky130_fd_pr__pfet_01v8 L=0.15 W=15 nf=1 ad=4.35 as=4.35 pd=30.58 ps=30.58 nrd=0.0193333333333333
+ nrs=0.0193333333333333 sa=0 sb=0 sd=0 mult=1 m=1
XM4 net1 vout vss vss sky130_fd_pr__nfet_01v8 L=5 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
+ m=1
C1 vm vss 1p m=1
XM9 net2 vout Iext vdd sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XM11 vout Vleak vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net2 nvout Iext vss sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 nvout vout vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XM7 nvout vout vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
iext_meas net2 vm 0
.save i(iext_meas)
.ends


* expanding   symbol:  /foss/designs/SNN-MWIP/VCCS/otavccs4.sym # of pins=6
** sym_path: /foss/designs/SNN-MWIP/VCCS/otavccs4.sym
** sch_path: /foss/designs/SNN-MWIP/VCCS/otavccs4.sch
.subckt otavccs4 avdd ipos1 ineg1 vin1 vin2 avss
*.iopin avdd
*.iopin avss
*.ipin vin1
*.ipin vin2
*.opin ineg1
*.opin ipos1
XM2 x vin1 net2 avss sky130_fd_pr__nfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0
+ mult=1 m=1
XM1 y vin2 net1 avss sky130_fd_pr__nfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0
+ mult=1 m=1
XM11 x x avdd avdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.8 nf=1 ad=0.232 as=0.232 pd=2.18 ps=2.18 nrd=0.3625 nrs=0.3625 sa=0 sb=0
+ sd=0 mult=1 m=1
XM3 y y avdd avdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.8 nf=1 ad=0.232 as=0.232 pd=2.18 ps=2.18 nrd=0.3625 nrs=0.3625 sa=0 sb=0 sd=0
+ mult=1 m=1
XM5 net3 y avdd avdd sky130_fd_pr__pfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0
+ mult=1 m=1
XM6 ipos1 y net3 avdd sky130_fd_pr__pfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0
+ mult=1 m=1
XM7 net4 x avdd avdd sky130_fd_pr__pfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0
+ mult=1 m=1
XM8 ineg1 x net4 avdd sky130_fd_pr__pfet_01v8 L=0.5 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0
+ mult=1 m=1
R3 p avss 10k m=1
R6 p net2 40k m=1
R1 p net1 40k m=1
.ends


* expanding   symbol:  Synapse/stdp_min.sym # of pins=7
** sym_path: /foss/designs/SNN-MWIP/Synapse/stdp_min.sym
** sch_path: /foss/designs/SNN-MWIP/Synapse/stdp_min.sch
.subckt stdp_min vdd vss vout_pre vout_post I_post n_vout_pre n_vout_post
*.iopin vdd
*.iopin vss
*.iopin vout_post
*.iopin vout_pre
*.iopin I_post
*.iopin n_vout_post
*.iopin n_vout_pre
XM3 be vout_post vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net1 vout_pre vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM14 net3 net2 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM15 net2 net2 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
**** begin user architecture code


.save v(te) v(be) i(vmr)


**** end user architecture code
Vmr te net1 0
.save i(vmr)
XM1 net1 n_vout_post net2 vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 be n_vout_pre net2 vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 I_post net2 net3 vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XR2 be te rram_v1
.ends


* expanding   symbol:  /foss/designs/SNN-MWIP/layer/integrator.sym # of pins=4
** sym_path: /foss/designs/SNN-MWIP/layer/integrator.sym
** sch_path: /foss/designs/SNN-MWIP/layer/integrator.sch
.subckt integrator vdd Vout Ispks gnd
*.iopin Ispks
*.iopin Vout
*.iopin vdd
*.iopin gnd
XMIn Ispks vx vsyn vdd sky130_fd_pr__pfet_01v8 L=0.15 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 vsyn vdd vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=3 m=3
XM4 Vout vsyn vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=25 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XCsyn vdd vsyn sky130_fd_pr__cap_mim_m3_1 W=22.2 L=22.2 MF=1 m=1
XR2 vx vdd sky130_fd_pr__res_generic_po W=1 L=1 m=1
XR1 gnd vx sky130_fd_pr__res_generic_po W=1 L=1 m=1
XM6 Vout vx gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /foss/designs/SNN-MWIP/OPAMP/opamp_mini.sym # of pins=5
** sym_path: /foss/designs/SNN-MWIP/OPAMP/opamp_mini.sym
** sch_path: /foss/designs/SNN-MWIP/OPAMP/opamp_mini.sch
.subckt opamp_mini vdd vout vm vp gnd
*.iopin vdd
*.iopin gnd
*.iopin vout
*.iopin vm
*.iopin vp
XM1 vout vb2 vdd vdd sky130_fd_pr__pfet_01v8 L=0.8 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 vb2 vb2 vdd vdd sky130_fd_pr__pfet_01v8 L=0.8 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 vb2 vp net1 gnd sky130_fd_pr__nfet_01v8 L=0.3 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 vout vm net1 gnd sky130_fd_pr__nfet_01v8 L=0.3 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net1 vb1 gnd gnd sky130_fd_pr__nfet_01v8 L=1.2 W=0.7 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
R1 vdd vb1 1k m=1
R2 vb1 gnd 1k m=1
.ends

.GLOBAL VDD
.GLOBAL GND
.GLOBAL avss
.GLOBAL avdd
.end
